US06589978B2
(2RS,5RS)-4-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-N-hydroxy-butyramidine (1.1 g, 2.62 mmol) was dissolved in EtOH (50 ml) and acetic acid (5 ml) and hydrogenated on Ra—Ni at room temperature for 2 h. The catalyst was filtered off, the filtrate evaporated and the crude product crystallized from saturated NaHCO3 solution to give (2RS,5RS)-4-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-N-butyramidine (0.81 g, 76%) as a light brown solid.

reactant | (2RS,5RS)-4-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-N-hydroxy-butyramidine | 2.62 mmol, 1.1 g | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CCCC(=N)NO | C21H26FN3O3S
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | EtOH | 50 ml | CCO | C2H6O
product | (2RS,5RS)-4-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-N-butyramidine | 0.81 g, 76% | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CCCC(=N)N | C21H26FN3O2S
